US04757080
(a) 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(2-nitrophenyl)-5-(6-phthalimidohexyloxy)carbonyl-pyridine
Prepared by a method analogous to that of Example 7(a) from 23.0 g (50 mmol) of 2-(2-nitrobenzylidene)-aceto acetic acid-(6-phthalimidohexyl)ester and 5.7 g (50 mmol) of 3-amino-crotonic acid methyl ester. 9.7 g (35%) of a dark yellow oil obtained after column chromatographic purification on silica gel with dichloromethane/methanol (98:2) as solvent.

reactant | 2-(2-nitrobenzylidene)-aceto acetic acid-(6-phthalimidohexyl)ester | 50 mmol, 23.0 g | C1(C=2C(C(N1CCCCCCOC(C(C(=O)C)=CC1=C(C=CC=C1)[N+](=O)[O-])=O)=O)=CC=CC2)=O | C25H24N2O7
reactant | 3-amino-crotonic acid methyl ester | 50 mmol, 5.7 g | COC(\C=C(\C)/N)=O | C5H9NO2
product | 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(2-nitrophenyl)-5-(6-phthalimidohexyloxy)carbonyl-pyridine | 9.7 g, 35% | CC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C30H31N3O8
